US07332485B2
N-Hydroxy-N-{1-[N′-(4-Trifluoromethyl-Pyrimidin-2-yl)-Hydrazinocarbonyl]-Cyclopentylmethyl}-Formamide
To a solution of N-benzyloxy-N-{1-[N′-(4-trifluoromethyl-pyrimidin-2-yl)-hydrazinocarbonyl]-cyclopentylmethyl}-formamide (0.085 g, 0.19 mmol) in methanol (10 mL) was added 10% Pd/C (0.03 g). The reaction mixture was subjected to hydrogenation for 4 h at room temperature. The reaction mixture was then filtered through a pad of Celite@, and washed with methanol (20 mL). Removal of the solvent provided the title compound as a white solid (0.025 g, 38%). MH+348.

reactant | N-benzyloxy-N-{1-[N′-(4-trifluoromethyl-pyrimidin-2-yl)-hydrazinocarbonyl]-cyclopentylmethyl}-formamide | 0.19 mmol, 0.085 g | C(C1=CC=CC=C1)ON(C=O)CC1(CCCC1)C(=O)NNC1=NC=CC(=N1)C(F)(F)F | C20H22F3N5O3
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd/C | 0.03 g | [Pd] | Pd
product | N-Hydroxy-N-{1-[N′-(4-Trifluoromethyl-Pyrimidin-2-yl)-Hydrazinocarbonyl]-Cyclopentylmethyl}-Formamide | 0.025 g, 38% | ON(C=O)CC1(CCCC1)C(=O)NNC1=NC=CC(=N1)C(F)(F)F | C13H16F3N5O3
